US08313772B2
C. (2-{2-[2-((2R,3R,4R,5R,6R)-4,5-Diacetoxy-6-acetoxymethyl-3-acetylamino-tetrahydro-pyran-2-yloxy)-ethoxy]-ethoxy}-ethoxy)-acetic acid benzyl ester
The above prepared acetic acid (3aR,5R,6R,7R,7aR)-6-acetoxy-5-acetoxymethyl-2-methyl-5,6,7,7a-tetrahydro-3aH-pyrano[3,2-d]oxazol-7-yl ester (10.3 g, 26 mmol) and {2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethoxy}-acetic acid benzyl ester (8.62 g, 29 mmol) were mixed in 520 mL of CH2Cl2 and treated with 63 g of 4 Angstrom molecular sieves. After 1 h trimethylsilyl triflate (6.13 g, 28 mmol) was added. The reaction mixture was stirred over the weekend at ambient temperature. Triethylamine (5.21 ml, 37 mmol) was added, the molecular sieves filtered off, the filtrate diluted with CH2Cl2 and washed with NaHCO3-solution and water. Drying over Na2SO4 and evaporation of the solvent followed by flash chromatography (SiO2, ethyl acetate/AcOH/MeOH/water=60/3/3/2) afforded 15.7 g of the title compound as a brownish oil. MS (ISP): 626.6 [M−H]−.

reactant | acetic acid (3aR,5R,6R,7R,7aR)-6-acetoxy-5-acetoxymethyl-2-methyl-5,6,7,7a-tetrahydro-3aH-pyrano[3,2-d]oxazol-7-yl ester | 26 mmol, 10.3 g | C(C)(=O)O[C@@H]1[C@@H]([C@H]2N=C(O[C@H]2O[C@@H]1COC(C)=O)C)OC(C)=O | C14H19NO8
reactant | {2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethoxy}-acetic acid benzyl ester | 29 mmol, 8.62 g | C(C1=CC=CC=C1)OC(COCCOCCOCCO)=O | C15H22O6
reactant | trimethylsilyl triflate | 28 mmol, 6.13 g | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | Triethylamine | 37 mmol, 5.21 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 520 mL | C(Cl)Cl | CH2Cl2
product | (2-{2-[2-((2R,3R,4R,5R,6R)-4,5-Diacetoxy-6-acetoxymethyl-3-acetylamino-tetrahydro-pyran-2-yloxy)-ethoxy]-ethoxy}-ethoxy)-acetic acid benzyl ester | 15.7 g | C(C1=CC=CC=C1)OC(COCCOCCOCCO[C@@H]1O[C@@H]([C@@H]([C@@H]([C@H]1NC(C)=O)OC(C)=O)OC(C)=O)COC(C)=O)=O | C29H41NO14
